US04324793
30.7 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride in 500 ml of diethyl ether is reacted in a stirred apparatus with 17 g of 2-cyano-3-chlorothiophenol for 4 hours at 30° C. There is obtained 38 g (86% of theory) of (4-nitro-2-trichloromethylphenyl)-(2-cyano-3-chlorophenyl)-disulfide; m.p.: 137° C.

reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 30.7 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | 2-cyano-3-chlorothiophenol | 17 g | C(#N)C1=C(C=CC=C1Cl)S | C7H4ClNS
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | (4-nitro-2-trichloromethylphenyl)-(2-cyano-3-chlorophenyl)-disulfide | 38 g, 86% | [N+](=O)([O-])C1=CC(=C(C=C1)SSC1=C(C(=CC=C1)Cl)C#N)C(Cl)(Cl)Cl | C14H6Cl4N2O2S2
